US07612075B2
A. 2-{4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-2-(±)-hydroxymethyl-6-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester.
Sodium borohydride (0.005 g, 0.13 mmol) is added to a solution of 2-{4-[2-(5-chloro-thiophen-2-yl)-ethenesulfonyl]-2-(±)-methoxycarbonyl-6-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (0.04 g, 0.07 mmol), (prepared from 2-(2-(±)-methoxycarbonyl-6-oxo-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester, EXAMPLE 71, and 2-(5-chloro-thiophen-2-yl)-ethenesulfonyl chloride, EXAMPLE 3, using the procedure described in EXAMPLE 214, Part A) in MeOH (3 mL) at RT. The reaction mixture is stirred for 6 h then quenched with water and concentrated in vacuo. The crude product (0.04 g) is taken onto the next step without further purification.

reactant | Sodium borohydride | 0.13 mmol, 0.005 g | [BH4-].[Na+]
reactant | 2-{4-[2-(5-chloro-thiophen-2-yl)-ethenesulfonyl]-2-(±)-methoxycarbonyl-6-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.07 mmol, 0.04 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2=O)S(=O)(=O)C=CC=2SC(=CC2)Cl)C(=O)OC | C25H27ClN4O7S2
reactant | 2-(2-(±)-methoxycarbonyl-6-oxo-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CNCC2=O)C(=O)OC | C19H24N4O5
reactant | 2-(5-chloro-thiophen-2-yl)-ethenesulfonyl chloride | ClC1=CC=C(S1)C=CS(=O)(=O)Cl | C6H4Cl2O2S2
solvent | MeOH | 3 mL | CO | CH4O
product | 2-{4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-2-(±)-hydroxymethyl-6-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2=O)S(=O)(=O)C=CC=2SC(=CC2)Cl)CO | C24H27ClN4O6S2
